US08022062B2
6-Bromomethyl-2-cyclohexyl-benzothiazole:
Combine 2-benzyl-6-methyl-benzothiazole (0.6 g, 2.42 mmol), NBS (0.5 g, 2.54 mmol), AIBN (40 mg, 0.24 mmol), carbon tetrachloride (10 mL) and reflux for 3 h. Cool the reaction mixture to ambient temperature, dilute with chloroform and wash with water. Dry the organic extracts over anhydrous Na2SO4, concentrate in vacuo and purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 9:1) to obtain the title compound as a white solid (0.4 g, 53%). MS (ES+) m/z: 311 (M+H)+.

reactant | 2-benzyl-6-methyl-benzothiazole | 2.42 mmol, 0.6 g | C(C1=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)C | C15H13NS
reactant | NBS | 2.54 mmol, 0.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.24 mmol, 40 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromomethyl-2-cyclohexyl-benzothiazole | 0.4 g, 53% | BrCC1=CC2=C(N=C(S2)C2CCCCC2)C=C1 | C14H16BrNS
